US07812020B2
1bk 2-Cyclopentyl-N-(2,4-dimethyl-6-morpholin-4-yl-pyridin-3-yl)-acetamide
2,4-Dimethyl-6-morpholin-4-yl-pyridin-3-ylamine (0.22 g) and cyclopentylacetyl chloride (0.19 mL) were dissolved in acetonitrile (5 mL) and heated to 150° C. for 10 minutes in a sealed microwave process vial. The reaction mixture was concentrated in vacuo and purified by flash chromatography (SiO2, heptane/ethylacetate 3:1) to furnish 0.17 g (49% yield) of the title compound as a white solid. LC-MS (m/z) 318 (MH+); tR=1.40, (UV, ELSD) 97%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.21 (m, 2H), 1.52 (m, 2H), 1.61 (m, 2H), 1.77 (m, 2H), 2.05 (s, 3H), 2.17 (s, 3H), 2.24 (m, 1H), 2.26 (m, 2H), 3.37 (m, 4H), 3.67 (m, 4H), 6.53 (s, 1H), 9.05 (s, 1H).

reactant | 2,4-Dimethyl-6-morpholin-4-yl-pyridin-3-ylamine | 0.22 g | CC1=NC(=CC(=C1N)C)N1CCOCC1 | C11H17N3O
reactant | cyclopentylacetyl chloride | 0.19 mL | C1(CCCC1)CC(=O)Cl | C7H11ClO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-Cyclopentyl-N-(2,4-dimethyl-6-morpholin-4-yl-pyridin-3-yl)-acetamide | 0.17 g, 49% yield | C1(CCCC1)CC(=O)NC=1C(=NC(=CC1C)N1CCOCC1)C | C18H27N3O2
